US07368578B2
A mixture of 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-methyl-1H-pyrazole-4-carbaldehyde (0.50 g), [(1,3-thiazol-4-yl)methyl]triphenylphosphonium chloride (0.95 g), potassium carbonate (0.33 g) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 15 hrs, and further stirred at 50° C. for 3 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:1 to 3:1, v/v) to give 2-(2-furyl)-4-({2-methoxy-4-[({1-methyl-4-[(Z)-2-(1,3-thiazol-4-yl)ethenyl]-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazole as colorless crystals (0.16 g, yield 26%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 97-98° C.

reactant | 3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-methyl-1H-pyrazole-4-carbaldehyde | 0.50 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2C=O)C)C=C1)OC)C | C22H21N3O6
reactant | [(1,3-thiazol-4-yl)methyl]triphenylphosphonium chloride | 0.95 g | [Cl-].S1C=NC(=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 0.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-(2-furyl)-4-({2-methoxy-4-[({1-methyl-4-[(Z)-2-(1,3-thiazol-4-yl)ethenyl]-1H-pyrazol-3-yl}oxy)methyl]phenoxy}methyl)-5-methyl-1,3-oxazole | 0.16 g, yield 26% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)COC1=NN(C=C1\C=C/C=1N=CSC1)C)OC)C | C26H24N4O5S
